US07067537B2
i) Production of 4-isopropylnicotinonitrile
By the reaction in the same manner as in Example 64-i) using 4-ethylnicotinonitrile (2.95 g) and methyl iodide (7 ml), the title compound (1.90 g) was obtained as a yellow oil.

reactant | 4-ethylnicotinonitrile | 2.95 g | C(C)C1=CC=NC=C1C#N | C8H8N2
reactant | methyl iodide | 7 ml | CI | CH3I
product | 4-isopropylnicotinonitrile | 1.90 g | C(C)(C)C1=CC=NC=C1C#N | C9H10N2
